US08729263B2
To a mixture of methyl 3-(benzyloxy)-4-bromo-5-hydroxybenzoate (3.69 g, 10.94 mmol) and potassium carbonate (3.03 g, 21.98 mmol) in DMF (27 mL) was added methyl iodide (0.753 mL, 12.04 mmol). The mixture was stirred overnight after which time it was diluted with water and extracted with ethyl acetate (4×). The combined extracts were washed with water (8×), brine, dried over magnesium sulfate and concentrated to provide methyl 3-(benzyloxy)-4-bromo-5-methoxybenzoate as a white solid (3.72 g). MS (M+1)=351.1; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.31-7.59 (m, 7H), 5.24 (s, 2H), 3.99 (s, 3H), 3.95 (s, 3H).

reactant | methyl 3-(benzyloxy)-4-bromo-5-hydroxybenzoate | 10.94 mmol, 3.69 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1Br)O | C15H13BrO4
reactant | potassium carbonate | 21.98 mmol, 3.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 12.04 mmol, 0.753 mL | CI | CH3I
solvent | DMF | 27 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 3-(benzyloxy)-4-bromo-5-methoxybenzoate | 3.72 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1Br)OC | C16H15BrO4
